US05849912
Synthesis of ethyl 2-chloro-3-bromo-5-nitrobenzoate
2.38 kg (8.2 mol) of ethyl 3-bromo-5-nitrosalicylate was dissolved in 3000 ml of DMF, followed by the dropwise addition of 1.26 kg of phosphorus oxychloride at room temperature. The obtained mixture was heated to 90° C. and then maintained at that temperature under heating for 10 hours. The obtained mixture was cooled and then concentrated under reduced pressure. The obtained residue was dissolved in ethyl acetate and the obtained solution was washed with water, dehydrated and concentrated under reduced pressure to give 2.25 kg of the title compound as a colorless oil.

reactant | ethyl 3-bromo-5-nitrosalicylate | 8.2 mol, 2.38 kg | BrC1=C(C(C(=O)OCC)=CC(=C1)[N+](=O)[O-])O | C9H8BrNO5
reactant | phosphorus oxychloride | 1.26 kg | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 3000 ml | CN(C)C=O | C3H7NO
product | ethyl 2-chloro-3-bromo-5-nitrobenzoate | 2.25 kg | ClC1=C(C(=O)OCC)C=C(C=C1Br)[N+](=O)[O-] | C9H7BrClNO4
